US07612114B2
6-{2-{Ethyl[4-(1-methylpiperidin-4-yl)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (100 mg) and 4-(4-carboxyphenyl)piperidine-1-carboxylic acid tert-butyl ester (120 mg) according to an analogous synthetic method to Example 337 described below, the title compound (37 mg) was obtained.

reactant | pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 100 mg | C(C)NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 4-(4-carboxyphenyl)piperidine-1-carboxylic acid tert-butyl ester | 120 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)O | C17H23NO4
product | 6-{2-{Ethyl[4-(1-methylpiperidin-4-yl)benzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 37 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)C1CCN(CC1)C | C32H40N2O2
